US07915271B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(hydroxymethyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (510 mg, 1.017 mmol) in CH2Cl2 (20 mL) at 0° C. under N2, was added Dess-Martin periodinane (647 mg, 1.526 mmol) portionwise. The reaction was stirred at 0° C. for 1 h. The reaction was carefully quenched with saturated NaHCO3 and the aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with brine, dried (Na2SO4), filtered and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel to give 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde as a white solid. LCMS calc.=500.1; found=500.0 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 10.29 (s, 1H); 8.04 (d, J=7.8 Hz, 1H); 7.93 (s, 1H); 7.85 (d, J=8.0 Hz, 1H); 7.83 (s, 1H); 7.82 (s, 2H); 5.77 (d, J=7.9 Hz, 1H); 5.11 (d, J=16.5 Hz, 1H); 4.94 (d, J=16.5 Hz, 1H); 4.23-4.18 (m, 1H); 0.84 (d, J=6.5 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(hydroxymethyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 1.017 mmol, 510 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)CO)C)(F)F | C21H16F9NO3
reactant | Dess-Martin periodinane | 1.526 mmol, 647 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=O)C=CC(=C1)C(F)(F)F)C)(F)F | C21H14F9NO3
